US08053457B2
(R)-3-(Pyridin-2-ylmethoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester
The title compound is synthesized by coupling of (R)-3-Hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester and 2-chloromethyl-pyridine HCl salt analogously to the preparation of Intermediate 193.2 as a white solid; ES-MS: M+=279.2: AtRet=2.81.

reactant | (R)-3-Hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)O | C9H17NO3
reactant | 2-chloromethyl-pyridine HCl salt | Cl.ClCC1=NC=CC=C1
product | (R)-3-(Pyridin-2-ylmethoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)OCC1=NC=CC=C1 | C15H22N2O3
